US05493020
To a biphasic solution of 7-[[4-cyanophenyl]methoxy]-4-propanoic acid, 3,4-dihydro-1H-1,4-benzodiazepine-2-thione-5-one, ethyl ester (0.75 grams, 1.77 mmol), prepared as described in part (c) of Example 3, methylene chloride (20 mL), water (20 mL), 0.2 mL methyl iodide, and a catalytic ammount of tetrabutyl ammonium hydrogen sulfate was added 1.2 mL 2N sodium hydroxide. After 16 hrs, overnight, of vigorous stirring the layers were seperated. The aqueous layer was washed 3×30 mL methylene chloride and the cobined organics were dried over sodium sulfate, decanted, and concentrated in vacuo. the resulting residue was dissolved in toluene (15 mL) and allowed to react with 0.23 grams (2.0 mmol) pyridinium hydrogen chloride and 0.64 grams (8.6 mmol) acetic hydrazide and the reaction was heated to reflux. After 5 hours, the reaction was allowed to cool to room temperature and concentrated in vacuo. The resulting residue was purified by column chromatography (SiO2, using 5:95 methanol:methylene chloride as the eluting solvent) to yield 0.5 grams (63%) of 4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepine-5(6H)-propanoic acid, 8-[[4-cyanophenyl]methoxy]- 1-methyl-6-oxo, ethyl ester. 1H NMR (CDCl3, δTMS) 7.59 (2H, d, 3JHH =8 Hz, 3,5H:4-NCC6H4), 7.46 (2H, 3JHH =8 Hz, 2,6H:4-NCC6H4), 7.45 (1H, d, 4JHH =3 Hz, C6 ArH), 7.17 (1H, d, 3JHH =9 Hz, C9 ArH), 7.12 (1H, dd, 4JHH =3Hz, 3JHH =9 Hz, C8 ArH), 5.12 (2H, dd, OCH2Ar), 4.61 (1H, d, 2JHH =16 Hz, C5H), 4.25 (1H, d, 2JHH =16 Hz, C5H), 4.01 (2H, q, 3JHH =7 Hz, OCH2), 3.77 (2H, m, NCH2), 2.57 (2H, m, CH2CO2), 2.46 (3H, s, C1-Me), 1.13 (3H, t, 3JHH =7 Hz, CH2CH3); 13C NMR (CDCl3) 171.1, 165.9, 157.6, 152.4, 150.5, 141.0, 132.4, 131.2, 127.5, 124.1, 119.4, 118.3, 116.8, 111.9, 69.3, 60.6, 45.2, 43.3,32.4, 14.0, 12.1.

reactant | 3,4-dihydro-1H-1,4-benzodiazepine-2-thione-5-one | N1C(CNC(C2=C1C=CC=C2)=O)=S | C9H8N2OS
reactant | methyl iodide | 0.2 mL | CI | CH3I
reactant | sodium hydroxide | 2N, 1.2 mL | [OH-].[Na+]
reactant | pyridinium hydrogen chloride | 2.0 mmol, 0.23 grams | Cl.[NH+]1=CC=CC=C1
reactant | acetic hydrazide | 8.6 mmol, 0.64 grams | C(C)(=O)NN | C2H6N2O
reactant | water | 20 mL | O | H2O
catalyst | tetrabutyl ammonium hydrogen sulfate | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepine-5(6H)-propanoic acid | 0.5 grams, 63% | C1=NN=C2N1C1=C(CN(C2)CCC(=O)O)C=CC=C1 | C13H14N4O2
